US05665718
1.28 g (4.1 mmol) of 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, 25 ml of N,N-dimethylformamide, 2 ml (11.7 mmol) of N-ethyldiisopropylamine and 1.19 g (4.5 mmol) of α,α'-dibromo-o-xylene were stirred at room temperature for 4 hours. After evaporating the solvent the residue was chromatographed on 180 g of silica gel while eluting with ethyl acetate. The uniform fractions were evaporated. There was obtained 0.39 g (23%) of 5,6-dihydro-3-(3-isoindolin-2-ylmethyl-1,2,4-oxadiazol-5-yl)-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 155°-160°.

reactant | 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 4.1 mmol, 1.28 g | NCC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H14N6O2
reactant | N-ethyldiisopropylamine | 11.7 mmol, 2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | α,α'-dibromo-o-xylene | 4.5 mmol, 1.19 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5,6-dihydro-3-(3-isoindolin-2-ylmethyl-1,2,4-oxadiazol-5-yl)-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.39 g, 23% | C1N(CC2=CC=CC=C12)CC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C23H20N6O2
